US06432993B1
(35-2a) 5-{4-[1-Methyl-6-(4-trifluoromethylphenoxy)-1H-benzimidazole-2-ylmethoxy]benzyl}thiazolidine-2,4-dione
A solution of t-butyl N-{2-[4-(2,4-dioxothiazolidin-5-ylmethyl)phenoxyacetylamino]-5-(4-trifluoromethylphenoxy)phenyl}-N-methylcarbamate (0.95 g) in trifluoroacetic acid (20 ml) was stirred at 60° C. for 3 hours and allowed to stand at ambient temperature overnight. The reaction mixture was concentrated and to the residue was added water and neutralized with aqueous sodium bicarbonate solution (5%). The mixture was extracted with ethyl acetate. The ethyl acetate layer was washed with saturated aqueous sodium chloride solution, dried over anhydrous sodium sulfate and then evaporated. The residue was purified by chromatography on a silica gel column using n-hexane/ethyl acetate=1/2 as the eluant to give the title compound (0.60 g).

reactant | t-butyl N-{2-[4-(2,4-dioxothiazolidin-5-ylmethyl)phenoxyacetylamino]-5-(4-trifluoromethylphenoxy)phenyl}-N-methylcarbamate | 0.95 g | O=C1SC(C(N1)=O)CC1=CC=C(OCC(=O)NC2=C(C=C(C=C2)OC2=CC=C(C=C2)C(F)(F)F)N(C(OC(C)(C)C)=O)C)C=C1 | C31H30F3N3O7S
solvent | trifluoroacetic acid | 20 ml | FC(C(=O)O)(F)F | C2HF3O2
product | 5-{4-[1-Methyl-6-(4-trifluoromethylphenoxy)-1H-benzimidazole-2-ylmethoxy]benzyl}thiazolidine-2,4-dione | 0.60 g | CN1C(=NC2=C1C=C(C=C2)OC2=CC=C(C=C2)C(F)(F)F)COC2=CC=C(CC1C(NC(S1)=O)=O)C=C2 | C26H20F3N3O4S
